US08455528B2
Methylamine (100 mL of 2M solution in THF) was charged into a 500 mL flask, to which was added 150 mL of Et2O. At −78° C., 15 g of 4-bromoacetyl benzonitrile was added, and the reaction was allowed to warm to rt. After stirring for 5 h, the reaction mixture was poured into a separatory funnel and shaken with 15% aq NaOH (20 mL). The precipitate was collected by filtration, and air-dried to give 4-(N-methylglycyl)benzonitrile.

reactant | Methylamine | 2M, 100 mL | CN | CH5N
reactant | 4-bromoacetyl benzonitrile | 15 g | BrCC(=O)C1=CC=C(C#N)C=C1 | C9H6BrNO
reactant | NaOH | 20 mL | [OH-].[Na+]
solvent | Et2O | 150 mL | CCOCC | C4H10O
product | 4-(N-methylglycyl)benzonitrile | CNCC(=O)C1=CC=C(C#N)C=C1 | C10H10N2O
